US04797399
5-Chloro-3-[(4-nitroso-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone (9.2 g) was dissolved in a mixture of water (120 ml) and acetic acid (400 ml). To the solution stirred at room temperature zinc dust (12.0 g) was added over 3 hours. The mixture was stirred for additional 2 hours at room temperature. The zinc dust unused in the reaction was filtered and washed once with acetic acid. The filtrate and the washing were combined and evaporated to dryness. Chloroform (200 ml) was added to the residue and insoluble material was then filtered. The chloroform solution was concentrated to give a syrup which was subjected to a silica gel column chromatography using a mixture of chloroform and methanol (10:1). The desired fractions were combined and evaporated to give a pale yellow oil which was converted into hydrochloride using hydrogen chloride in absolute ether. The crude crystals obtained were recrystallized from aqueous ethanol to give 5-chloro-3-[(4-amino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone hydrochloride (4.03 g).

reactant | 5-Chloro-3-[(4-nitroso-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone | 9.2 g | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCN(CC2)N=O)C1 | C13H13ClN4O3S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | CO | CH4O
reactant | hydrochloride | Cl | ClH
solvent | water | 120 ml | O | H2O
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
catalyst | zinc | 12.0 g | [Zn] | Zn
product | 5-chloro-3-[(4-amino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone hydrochloride | 4.03 g | Cl.ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCN(CC2)N)C1 | InChI=1S/C13H15ClN4O2S.ClH/c14-9-1-2-11-10(7-9)18(13(20)21-11)8-12(19)16-3-5-17(15)6-4-16;/h1-2,7H,3-6,8,15H2;1H
